US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and propyl chloroformate, there is obtained ethyl N-propoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 352 (8), 323 (14), 293 (14), 263 (78), 194 (100).

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
product | ethyl N-propoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(CC)OC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C21H24N2O3
